US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide
A mixture of 0.50 g (0.94 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 0.32 g (2.8 mmol) 4-(hydroxymethyl)piperidine, 0.12 g (2.8 mmol) lithium chloride and 0.39 g (2.8 mmol) potassium carbonate in 5 ml DMSO was heated at 140° C. for 24 h. After cooling to room temperature the reaction mixture was diluted with water and extracted with three portions of dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 0.42 g (74%) of the title compound as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.94 mmol, 0.50 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | 4-(hydroxymethyl)piperidine | 2.8 mmol, 0.32 g | OCC1CCNCC1 | C6H13NO
reactant | lithium chloride | 2.8 mmol, 0.12 g | [Cl-].[Li+]
reactant | potassium carbonate | 2.8 mmol, 0.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.42 g, 74% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)CO)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C31H32F7N3O2
